US07253286B2
N-[4-(2-Butylaminopyridin-4-yl)oxyphenyl]-N′-(4-fluorophenyl)urea
4-(4-Aminophenoxy)-2-butylaminopyridine (54 mg), p-fluorophenyl isocyanate (34.5 mg) and tetrahydrofuran (5 ml) were stirred at room temperature for 2.5 hours. After adding NH type silica gel to the reaction solution, the solvent was distilled off under reduced pressure, and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, and column purification was performed (hexane:ethyl acetate=1:1, followed by ethyl acetate) The solvent was distilled off under reduced pressure and the residue was solidified with ethyl acetate-hexane to obtain 15 mg of the target substance as a light yellow powder.

reactant | 4-(4-Aminophenoxy)-2-butylaminopyridine | 54 mg | NC1=CC=C(OC2=CC(=NC=C2)NCCCC)C=C1 | C15H19N3O
reactant | p-fluorophenyl isocyanate | 34.5 mg | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[4-(2-Butylaminopyridin-4-yl)oxyphenyl]-N′-(4-fluorophenyl)urea | C(CCC)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C22H23FN4O2
